Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ampicillin
 
Attending: ___.
 
Chief Complaint:
Left sided chest pain, nausea, and generalized weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o. female with h/o Hep B, chronic kidney disease, HTN, and 
hyperlipidemia presented to ED for left sided chest pain, 
nausea, and generalized weakness x 2 days. EKG had inverted T 
waves; patient given morphine, SL nitro, ASA, and Zofran.  
Cardiac enzymes x 2 negative.  Chest x-ray unremarkable.  LFTs 
elevated.  Creatinine elevated.  Patient indicated that she had 
recently been prescribed vicodin and flexeril, but had to stop 
because she had become constipated.  Patient started on an 
extensive bowel regimen, which helped decrease the nausea and 
chest pain drastically.  Patient began to tolerate po 
medications and food, and upon discharge, had a healthy 
appetite.
 
Past Medical History:
Hepatitis B - ___  
Chronic Kidney Disease  
Hypertension  
Hypercholesterolemia  
.  
Past Surgeries - two hemorrhoidectomies, tonsillectomy  

 
Social History:
___
Family History:
Father - killed in war; Mother- died secondary to internal 
bleeding at age ___ sister- died of pneumonia, son - alive and 
well 
 
Physical Exam:
Vitals - T: 99.0 BP: 132/81 HR: 90 RR: 20 02 sat: 98% RA  
GENERAL: Pleasant, anxious lady  
HEENT: Normocephalic, atraumatic.PERRLA/EOMI. OP clear. Oral 
mucosa dry. Neck Supple, No LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. + S3  
LUNGS: CTAB, good air movement biaterally.  
ABDOMEN: NABS. Obese. Soft, NT, ND. - ___ sign.  
EXTREMITIES: No pain at hip or back on palpation. No pain with 
hip flexion, bil. No edema. -___, - ___. +1 ___, bil.  

SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Normal 
coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

 
Pertinent Results:
Chest X-Ray ___
FINDINGS: The heart, mediastinal, hilar, and pleural surface 
contours are 
normal. The lungs are fully expanded and clear without focal 
consolidation, 
pleural effusion, pulmonary edema, or pneumothorax. The 
surrounding soft 
tissue appears normal. There is degenerative changes in the 
spine. IMPRESSION: No evidence of pneumonia or congestive heart 
failure. Normal 
chest radiographs. 

___ 01:05PM BLOOD WBC-7.8 RBC-4.26 Hgb-12.7 Hct-38.1 MCV-89 
MCH-29.7 MCHC-33.3 RDW-13.9 Plt ___
___ 06:35AM BLOOD WBC-7.6 RBC-3.72* Hgb-11.1* Hct-33.1* 
MCV-89 MCH-29.7 MCHC-33.5 RDW-13.9 Plt ___
___ 09:05AM BLOOD WBC-8.3 RBC-4.34 Hgb-13.0 Hct-38.5 MCV-89 
MCH-29.9 MCHC-33.6 RDW-13.8 Plt ___
___ 06:18AM BLOOD Glucose-79 UreaN-18 Creat-1.3* Na-139 
K-4.0 Cl-103 HCO3-22 AnGap-18
___ 06:35AM BLOOD Glucose-83 UreaN-21* Creat-1.3* Na-140 
K-3.9 Cl-104 HCO3-24 AnGap-16
___ 09:05AM BLOOD Glucose-103 UreaN-19 Creat-1.3* Na-136 
K-4.6 Cl-97 HCO3-23 AnGap-21*
___ 06:35AM BLOOD ALT-58* AST-33 LD(LDH)-191 TotBili-0.7
___ 01:17PM BLOOD ALT-73* AST-49* AlkPhos-100 TotBili-0.6
___ 09:05AM BLOOD ALT-86* AST-65* LD(LDH)-373* CK(CPK)-113 
AlkPhos-110 TotBili-0.8
___ 06:18AM BLOOD Calcium-9.7 Phos-3.6 Mg-1.5*
___ 09:05AM BLOOD Calcium-10.4* Phos-3.4 Mg-1.6
___ 01:17PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-POSITIVE HAV Ab-POSITIVE
___ 01:17PM BLOOD Acetmnp-NEG
___ 01:17PM BLOOD HCV Ab-NEGATIVE
 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with history of Hep B, 
HTN, and Hypercholesterolemia that presented to ED with nausea x 
2 days with intermittent left sided chest pain and weakness.  
She had recently stopped taking vicodin and flexeril (for her 
sciatica) because of it causing constipation.  Patient denies 
vomiting, but states she has lost her appetite and was very 
nauseaus.  She denies any fever or chills.  Her left sided chest 
pain does not radiate to her jaw or shoulder.

1. Nausea. Ddx: Ischemia vs GI. Patient has had episodes of 
chest pain similar to those this morning for months at home. The 
pain did not not radiate, and her chest hurt more on direct 
palpation. She has a history of recent musculoskeletal issues 
treated with muscle relaxers and pain killers. Cardiac enzymes x 
2 were negative.  Ultimately, we felt that that the nausea was 
secondary to GI.  She was given an extensive bowel regimen, and 
gained significant relief once her bowels cleared. 

2. Elevated Tranaminases. ALT: 86 to 55, AST: 65 to 33. (trended 
down during hospital course)Possible etiologies included 
Acetaminophen use (was taking percocet and vicodin) vs. 
Hepatitis (diagnosed in ___ with hepatitis B).  Patient 
acetaminophen levels were negative upon review.   HBsAg was 
negative; HBsAb was positive; HBcAb was positive; HAV Ab was 
positive.  Patient scheduled for follow up with PCP.

3. Stage 3 Chronic Renal Failure - Cr level of 1.3 currently at 
baseline.  Patient given IVF and team continued to monitor Cr 
levels.  

4. Hypercalcemia.  IVFs given; albumin levels normal. 

 
Medications on Admission:
Norvasc 5 mg qdaily  
HCTZ 12.5 qdaily  
Losartan 100mg qdaily  
Metoprolol 100 mg SR qdaily  

 
Discharge Medications:
1. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
2. Losartan 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
3. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
4. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Nausea
Secondary:
Elevated Transaminases
Chronic Renal Failure
Hypercalcemia

 
Discharge Condition:
Stable

 
Discharge Instructions:
You came to the ___ emergency room for left sided chest pain, 
nausea, and generalized weakness.  You indicated that you did 
not have any shortness of breath, but that you had a bitter 
taste in your mouth.  You had recently stopped taking Flexeril 
and Vicodin because they caused you constipation.

In the emergency room, a chest x-ray was taken that was negative 
for any cardiac process.  An EKG had a normal rate, but it had T 
wave inversion, which can sometimes occur when the heart does 
not get enough oxygen.  You were given morphine, aspirin, 
nitroglycerin, and zofran.  Cardiac enzymes were drawn, and the 
results were negative for a heart attack.  Liver function tests 
were taken that indicated increased liver enzymes.  Your 
bloodwork showed an elevated creatinine level, which is a marker 
of kidney function.  You were admitted to the medicine service 
to rule out a heart attack and monitor for your nausea.

On the medicine floor, you were hooked up to a telemetry monitor 
so your physicians could monitor your heart rate.  It was 
discontinued when your cardiac enzymes came back negative, which 
ruled out a myocardial infarction.  You were given an extensive 
bowel regimen for your constipation, and your bowels moved.  You 
were given IV fluids.  Your elevated liver function test results 
decreased while you were at ___.  You were able to tolerate 
food without nausea when you left, and your vital signs were 
stable.

Please keep your medical appointments. Please continue to take 
your medications as prescribed.

If you have any of the following symptoms, please call your 
physician or go to the emergency room.
1.  Chest pain
2.  Shortness of breath
3.  High fevers (>101.5)
4.  Severe nausea and vomiting

  
 
Followup Instructions:
___